US06831106B1
g) 1-[3′-(3,4-Bis-hydroxymethylbenzyloxy)-2-methylbiphenyl-4-yl]-2,2-dimethyl-1-propanol
2 g (3 mmol) of 1-{3′-(3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl}-2,2-dimethyl-1-propanol are dissolved in 20 mL of THF and 7.7 mL (7.7 mmol) of 1 M tetrabutylammonium fluoride are added dropwise. After stirring for 1 hour at room temperature followed by the usual treatment, the residue obtained is purified by chromatography on silica gel. The desired product is obtained in the form of a colourless oil (m=1.15 g; Y=90%).

reactant | 1-{3′-(3,4-bis-(tert-butyldimethylsilanyloxymethyl)benzyloxy]-2-methylbiphenyl-4-yl}-2,2-dimethyl-1-propanol | 3 mmol, 2 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(C(C)(C)C)O)C)C=CC1CO[Si](C)(C)C(C)(C)C | C39H60O4Si2
reactant | tetrabutylammonium fluoride | 7.7 mmol, 1 M, 7.7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-[3′-(3,4-Bis-hydroxymethylbenzyloxy)-2-methylbiphenyl-4-yl]-2,2-dimethyl-1-propanol | OCC=1C=C(COC=2C=C(C=CC2)C2=C(C=C(C=C2)C(C(C)(C)C)O)C)C=CC1CO | C27H32O4
